US07585868B2
Synthesis of 2-((3-ethoxy-4-methoxyphenyl)(methoxy)methylene)malononitrile (ZK302).
2-((3-ethoxy-4-methoxyphenyl)(hydroxy)methylene)malononitrile (25.5 mmol) and sodium bicarbonate (17 g, 204 mmol) were combined in a solution of 1,4-dioxane (48 mL) and water (8 mL). Dimethylsulphate (17 mL, 178 mmol) was slowly added and the reaction was heated to 80-90° C. for 2 hours. The reaction was cooled to RT, water was added, and the aqueous phase extracted three times with EtOAc (200 mL). The organic phases were combined, dried with MgSO4, and filtered to give a red oil. The oil was purified by silica gel chromatography (10% EtOAc/Hexanes, Rf˜0.1) to give a white solid (3.59 g, 54.5% yield over three steps). ESI-MS (M+H)+ m/z calcd 259.1, found 259.0.

reactant | 2-((3-ethoxy-4-methoxyphenyl)(hydroxy)methylene)malononitrile | 25.5 mmol | C(C)OC=1C=C(C=CC1OC)C(=C(C#N)C#N)O | C13H12N2O3
reactant | sodium bicarbonate | 204 mmol, 17 g | C([O-])(O)=O.[Na+]
reactant | 1,4-dioxane | 48 mL | O1CCOCC1 | C4H8O2
reactant | Dimethylsulphate | 178 mmol, 17 mL | COS(=O)(=O)OC | C2H6O4S
solvent | water | O | H2O
solvent | water | 8 mL | O | H2O
product | 2-((3-ethoxy-4-methoxyphenyl)(methoxy)methylene)malononitrile | 54.5% yield | C(C)OC=1C=C(C=CC1OC)C(=C(C#N)C#N)OC | C14H14N2O3
